US06008230
To a solution of 3-bromomethyl-8-(2,6-dichlorobenzoylamino)quinoline (120 mg) and phenol (30.3 mg) in dimethylformamide was added potassium tert-butoxide (72.2 mg), and the mixture was stirred for 1 hour at ambient temperature. The mixture was poured into saturated ammonium chloride solution and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (ethyl acetate-n-hexane) to give 8-(2,6-dichlorobenzoylamino)-3-phenoxymethylquinoline (87.1 mg).

reactant | 3-bromomethyl-8-(2,6-dichlorobenzoylamino)quinoline | 120 mg | BrCC=1C=NC2=C(C=CC=C2C1)NC(C1=C(C=CC=C1Cl)Cl)=O | C17H11BrCl2N2O
reactant | phenol | 30.3 mg | C1(=CC=CC=C1)O | C6H6O
reactant | potassium tert-butoxide | 72.2 mg | CC(C)([O-])C.[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 8-(2,6-dichlorobenzoylamino)-3-phenoxymethylquinoline | 87.1 mg | ClC1=C(C(=O)NC=2C=CC=C3C=C(C=NC23)COC2=CC=CC=C2)C(=CC=C1)Cl | C23H16Cl2N2O2
